US05627215
(E)-1,14-Di-cyclopropylmethyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride
A mixture of 1.5 g (2.116 mmol) of (E)-1,14-di-cyclopropylmethyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene and 23 ml of 3N methanolic hydrochloric acid is stirred for 5 h at room temperature, and then 20 ml of diethyl ether are added. Working up analogously to Example 1 yields the title compound, m.p. >260° C. 1H-NMR (D2O): δ0.33-0.38(m,4H); 0.65-0.71 (m,4H); 1.00-1.14(m,2H); 2.05-2.16(m,4H); 2.96(d,4H); 3.13-3.19(m,8H); 3.77(d,4H); 6.04-6.07(m,2H).

reactant | (E)-1,14-di-cyclopropylmethyl-1,5,10,14-tetra-BOC-1,5,10,14-tetraazatetradec-7-ene | 2.116 mmol, 1.5 g | C1(CC1)CN(CCCN(C\C=C\CN(CCCN(C(=O)OC(C)(C)C)CC1CC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C38H68N4O8
reactant | hydrochloric acid | 3N, 23 ml | Cl | ClH
solvent | diethyl ether | 20 ml | C(C)OCC | C4H10O
product | (E)-1,14-Di-cyclopropylmethyl-1,5,10,14-tetraazatetradec-7-ene tetrahydrochloride | Cl.Cl.Cl.Cl.C1(CC1)CNCCCNC\C=C\CNCCCNCC1CC1 | InChI=1S/C18H36N4.4ClH/c1(9-19-11-3-13-21-15-17-5-6-17)2-10-20-12-4-14-22-16-18-7-8-18;;;;/h1-2,17-22H,3-16H2;4*1H/b2-1+;;;;
